US04409146
To a suspension of 300 mg of sodium hydride in 25 ml THF add a solution of 2.71 g of 3,3-dibromoperhydroazepin-2-one [R. Wineman et al., J. Am. Chem. Soc., 80, 6233 (1958)] and 2.50 g of t-butyl iodoacetate in 25 ml THF, carrying out the operation under N2. Stir the reaction at room temperature for several hours, quench with aqueous NaHSO3, isolate the organic phase, dry and concentrate in vacuo to obtain 1-t-butoxycarbonylmethyl-3,3-dibromoperhydroazepin-2-one.

reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | 3,3-dibromoperhydroazepin-2-one | 2.71 g | BrC1(C(NCCCC1)=O)Br | C6H9Br2NO
reactant | t-butyl iodoacetate | 2.50 g | ICC(=O)OC(C)(C)C | C6H11IO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-t-butoxycarbonylmethyl-3,3-dibromoperhydroazepin-2-one | C(C)(C)(C)OC(=O)CN1C(C(CCCC1)(Br)Br)=O | C12H19Br2NO3
